US06936602B1
A mixture of 7-bromo-1-propyl-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one (5.89 g), 4-(2-butoxyethoxy)phenyl borate (5.45 g) and potassium carbonate (5.74 g) in toluene-ethanol-water (200-20-20 ml) was stirred at room temperature for 1 hour under argon atmosphere. To the reaction system was added tetrakistriphenylphosphinepalladium (0.72 g), and the mixture was heated to reflux for 3 hours. After cooled to room temperature, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified with column chromatography (ethyl acetate:hexane=1:9→1:4) to give 7-[4-(2-butoxyethoxy)phenyl]-1-propyl-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one (7.15 g) as yellow oil.

reactant | 7-bromo-1-propyl-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one | 5.89 g | BrC=1C=CC2=C(C(CCCN2CCC)=O)C1 | C13H16BrNO
reactant | 4-(2-butoxyethoxy)phenyl borate | 5.45 g | B(OC1=CC=C(C=C1)OCCOCCCC)([O-])[O-]
reactant | potassium carbonate | 5.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-ethanol water | C=1(C(=CC=CC1)CCO)C.O
catalyst | tetrakistriphenylphosphinepalladium | 0.72 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[4-(2-butoxyethoxy)phenyl]-1-propyl-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one | 7.15 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C(CCCN2CCC)=O)C1 | C25H33NO3
